US20010047099A1
Sodium azide (0.0086 mol, 0.60 g) was added to a solution of methyl 3-chloro-4,6-difluoropyridine-2-carboxylate (0.0072 mol, 1.5 g) in 15 mL dimethyl formamide (DMF). The solution was stirred 10 min at ambient temperature before pouring into 350 mL water and extracting the aqueous mixture with EtOAc (2×100 mL). The organic phase was dried (Na2SO4) and then treated with excess NaBH4 for 30 min. The excess NaBH4 was quenched with aqueous EtOH and the mixture was diluted with water (200 mL). The organic layer was separated and the aqueous layer extracted with EtOAc (2×200 mL). The combined organic layers were dried (Na2SO4) and concentrated to an off-white powder which was purified by reversed-phase HPLC to give methyl 4-amino-3-chloro-6-fluoropyridine-2-carboxylate (0.0059 mol, 1.2 g). 1H NMR(CDCl3): δ 3.95 (3H, s), 5.2-5.1 (2H, bs), 6.36 (1H, s). 19F NMR {1H}: 5-72.7.

reactant | Sodium azide | 0.0086 mol, 0.60 g | [N-]=[N+]=[N-].[Na+]
reactant | methyl 3-chloro-4,6-difluoropyridine-2-carboxylate | 0.0072 mol, 1.5 g | ClC=1C(=NC(=CC1F)F)C(=O)OC | C7H4ClF2NO2
reactant | water | 350 mL | O | H2O
solvent | dimethyl formamide | 15 mL | CN(C=O)C | C3H7NO
product | methyl 4-amino-3-chloro-6-fluoropyridine-2-carboxylate | 0.0059 mol, 1.2 g | NC1=C(C(=NC(=C1)F)C(=O)OC)Cl | C7H6ClFN2O2
